US07074800B1
2-Chloro-4-methoxyaniline (2.719 g, 14 mmol) was added to 8.0M aqueous hydrochloric acid (15 ml) and the suspension cooled to −5° C. Sodium nitrite (1.063 g, 15.4 mmol) was added as a solution in water (3 ml). After addition the pH was brought to pH 4–5 by addition of sodium acetate. In a separate flask, ethyl-α-ethyl acetoacetate (2.18 ml, 15.4 mmol) in ethanol (15 ml) at −5° C. was treated with potassium hydroxide (864 mg, 15.4 mmol) in water (3 ml) followed by ice (4 g). The diazonium salt prepared initially was then added rapidly to the second solution and stirred at −5° C. for 4 hours then allowed to warm to ambient temperature overnight. The mixture was extracted with ethyl acetate (3×100 ml) and the organic solutions dried (MgSO4), filtered and solvent removed in vacuo to give an orange oil. This oil was dissolved in ethanol (35 ml) and the flask fitted with a reflux condenser. Concentrated sulphuric acid (35 ml) was then added dropwise, this caused the reaction to reflux with no external heating. The solution was stirred for 1 hour then the solvent removed by evaporation. The residue was taken up in water then extracted with ethyl acetate (3×100 ml). The organic solution was washed with brine, dried (MgSO4), filtered and evaporated to give a brown oil. The crude oil was purified by silica column chromatography, eluting with dichloromethane to give ethyl 7-chloro-5-methoxyindole-2-carboxylate (125 mg, 4%).

reactant | 2-Chloro-4-methoxyaniline | 14 mmol, 2.719 g | ClC1=C(N)C=CC(=C1)OC | C7H8ClNO
reactant | hydrochloric acid | 8.0M, 15 ml | Cl | ClH
reactant | Sodium nitrite | 15.4 mmol, 1.063 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethyl-α-ethyl acetoacetate | 15.4 mmol, 2.18 ml | C(CC(=O)C)(=O)OC(C)CC | C8H14O3
reactant | potassium hydroxide | 15.4 mmol, 864 mg | [OH-].[K+]
reactant | sulphuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 3 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | ethyl 7-chloro-5-methoxyindole-2-carboxylate | 125 mg, 4% | ClC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC | C12H12ClNO3
